US06946454B2
A solution of oxindole (40 g, 0.3 mol) in dry THF (400 ml) under N2 was cooled to −25° C. and treated drop wise with n-butyl lithium (2.5M in hexanes, 240 ml, 0.6 mol). To the resulting solution was added N,N,N′,N′-tetramethylethylenediamine (90.4 ml, 0.6 mol). After 30 min. iodoethane (48 ml, 0.6 mol) was added and the reaction mixture was allowed to warm to room temperature and stirred over night. The reaction mixture was poured into aqueous NH4Cl solution, extracted with EtOAc (2×) and the combined organic layers were washed with dil. HCl, water, brine, dried (MgSO4) and concentrated. The residual oil was triturated with hexane to afford the crude product (24.5 g, 51%). A sample (3 g) was recrystallized from EtOAc/hexane to obtain 3-ethyl-indol-2-one (1.4 g), m.p. 100-101° C.; 1H-NMR (DMSO-d6) δ 0.76 (t, 3H, J=7.5 Hz), 1.8-2.0 (m, 2H), 3.38 (t, 3H, J=5.7 Hz), 6.8 (dt, 1H, J=7.69, 0.45 Hz), 6.93 (dt, 1H, J=7.45, 1.10 Hz), 7.15 (m, 1H), 7.22 (m, 1H), 10.3 (s, 1H);

reactant | oxindole | 0.3 mol, 40 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | n-butyl lithium | 0.6 mol, 2.5M, 240 ml | C(CCC)[Li]
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.6 mol, 90.4 ml | CN(CCN(C)C)C | C6H16N2
reactant | iodoethane | 0.6 mol, 48 ml | ICC | C2H5I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 3-ethyl-indol-2-one | 1.4 g | C(C)C=1C(N=C2C=CC=CC12)=O | C10H9NO
